US08183239B2
2-Ethyl-N-{1-[4-(2-ethyl-butyrylamino)-2-fluoro-phenyl]-piperidin-4-yl}-N-phenyl-butyramide
To a mixture of N-[1-(4-amino-2-fluoro-phenyl)-piperidin-4-yl]-2-ethyl-N-phenyl-butyramide (0.30 mmol) and TEA (2.0 mmol) in DCM (10 mL) was added 2-ethyl-butyryl chloride (1.0 mmol). After 16 h, the mixture was washed with H2O (10 mL). The organic layer was concentrated and the residue was purified by PTLC to provide the title compound (45 mg, 31%). MS (ESI): mass calcd. for C29H40FN3O2, 481.31. m/z found, 482.4 [M+H]+. 1H NMR (CDCl3): 7.50-7.35 (m, 5H), 7.15-7.03 (m, 2H), 6.86 (t, J=8.8, 1H), 4.90-4.72 (m, 1H), 3.44-3.30 (m, 2H), 2.80-2.67 (m, 2H), 2.30-1.30 (m, 14H), 0.95 (t, J=7.3, 6H), 0.80 (t, J=7.2, 6H).

reactant | N-[1-(4-amino-2-fluoro-phenyl)-piperidin-4-yl]-2-ethyl-N-phenyl-butyramide | 0.30 mmol | NC1=CC(=C(C=C1)N1CCC(CC1)N(C(C(CC)CC)=O)C1=CC=CC=C1)F | C23H30FN3O
reactant | 2-ethyl-butyryl chloride | 1.0 mmol | C(C)C(C(=O)Cl)CC | C6H11ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Ethyl-N-{1-[4-(2-ethyl-butyrylamino)-2-fluoro-phenyl]-piperidin-4-yl}-N-phenyl-butyramide | 45 mg, 31% | C(C)C(C(=O)N(C1=CC=CC=C1)C1CCN(CC1)C1=C(C=C(C=C1)NC(C(CC)CC)=O)F)CC | C29H40FN3O2
